US06339099B1
To a solution of 3-cyano-4-fluorobenzaldehyde (2.50 g) in ethanol (40 mL) was added a solution of hydroxyamine (1.46 g) in water (10 mL), a solution of sodium acetate (2.75 g) in water (10 mL). The mixture was stirred at rt, overnight. Ethanol was removed and the white precipitate was filtered, washed with water and air dried to leave 3-cyano-4-fluorobenzaldehydeoxime (2.05 g). CI mass spectrum z (rel. intensity) 165 (M+H, 100).

reactant | 3-cyano-4-fluorobenzaldehyde | 2.50 g | C(#N)C=1C=C(C=O)C=CC1F | C8H4FNO
reactant | hydroxyamine | 1.46 g | ON | H3NO
reactant | sodium acetate | 2.75 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | 3-cyano-4-fluorobenzaldehydeoxime | 2.05 g | C(#N)C=1C=C(C=NO)C=CC1F | C8H5FN2O
